US07323466B2
(R)-1-chloro-3-(3-trifluoromethylphenyl)-2-propanol was prepared using the same procedure as described for example 2, intermediate (d), but using 3-bromobenzotrifluoride and (R)-epichlorohydrin.

reactant | 3-bromobenzotrifluoride | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | (R)-epichlorohydrin | C(Cl)[C@H]1CO1 | C3H5ClO
product | (R)-1-chloro-3-(3-trifluoromethylphenyl)-2-propanol | ClC[C@@H](CC1=CC(=CC=C1)C(F)(F)F)O | C10H10ClF3O
